US07863310B2
1-Phenyl-2-(3-(isopropyl)amino-4-nitrophenyl)acetylene
Bubble nitrogen through a mixture of N-[isopropyl]2-nitro-5-bromoaniline (0.34 g, 1.31 mmol), phenylacetylene (0.20 g, 1.96 mmol), palladium(II) acetate (7.3 mg, 0.033 mmol) and triphenylphosphine (17 mg, 0.065 mmol) in triethylamine (5 ml) for 3 minutes, then heat at reflux for 1 hour. Cool to room temperature and concentrate under reduced pressure. Partition the residue between ethyl acetate and saturated aqueous sodium chloride, dry the organic phase over sodium sulfate, and concentrate under reduced pressure. Subject the residue to silica gel chromatography, eluting with 9:1 hexane:ethyl acetate to provide the desired compound as a red solid (0.31 g, 85%).

reactant | N-[isopropyl]2-nitro-5-bromoaniline | 1.31 mmol, 0.34 g | C(C)(C)NC1=C(C=CC(=C1)Br)[N+](=O)[O-] | C9H11BrN2O2
reactant | phenylacetylene | 1.96 mmol, 0.20 g | C1(=CC=CC=C1)C#C | C8H6
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium(II) acetate | 0.033 mmol, 7.3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 0.065 mmol, 17 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 1-Phenyl-2-(3-(isopropyl)amino-4-nitrophenyl)acetylene | 0.31 g, 85% | C1(=CC=CC=C1)C#CC1=CC(=C(C=C1)[N+](=O)[O-])NC(C)C | C17H16N2O2
